US07435815B2
N-Ethyl-2-[(5-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-N-pyridin-3-ylmethyl-acetamide
prepared by reaction of [(5-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid with ethyl-pyridin-3-ylmethyl-amine

reactant | [(5-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid | CC=1C=CC(=NC1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C15H16N2O4S
reactant | ethyl-pyridin-3-ylmethyl-amine | C(C)NCC=1C=NC=CC1 | C8H12N2
product | N-Ethyl-2-[(5-methyl-pyridine-2-sulfonyl)-p-tolyl-amino]-N-pyridin-3-ylmethyl-acetamide | C(C)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C1=NC=C(C=C1)C)=O)CC=1C=NC=CC1 | C23H26N4O3S
